US06331562B1
3-(4-Chlorophenyl)-4-(4-Hydroxyphenyl)-7-Methoxy-2H-Chromen-2-One 2
A suspension of 2-hydroxy-4-methoxyphenyl 4-hydroxyphenyl ketone (2.6 grams, 10.65 mmol), 4-chlorophenylacetic acid (4.0 g, 23.43 mmol), K2CO3 (4.4 g, 31.95 mmol), carbonyldiimidazole (3.8 g, 23.43 mmol), and 4-dimethylaminopyridine (0.1 g,) in 20 mL of DMF was warmed at 90° C. for 5 hours. The reaction mixture was poured into 150 mL of H2O and stirred for 30 minutes. The precipitated product was collected by filtration and the purified desired product was isolated following flash chromatography (2.1 g, 52%, LC/MS=379 (M+H+)).

reactant | 2-hydroxy-4-methoxyphenyl 4-hydroxyphenyl ketone | 10.65 mmol, 2.6 grams | OC1=CC=C(C=C1)C(=O)C1=C(C=C(C=C1)OC)O | C14H12O4
reactant | 4-chlorophenylacetic acid | 23.43 mmol, 4.0 g | ClC1=CC=C(C=C1)CC(=O)O | C8H7ClO2
reactant | K2CO3 | 31.95 mmol, 4.4 g | C(=O)([O-])[O-].[K+].[K+]
reactant | carbonyldiimidazole | 23.43 mmol, 3.8 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
catalyst | 4-dimethylaminopyridine | 0.1 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | H2O | 150 mL | O | H2O
product | 3-(4-Chlorophenyl)-4-(4-Hydroxyphenyl)-7-Methoxy-2H-Chromen-2-One | ClC1=CC=C(C=C1)C=1C(OC2=CC(=CC=C2C1C1=CC=C(C=C1)O)OC)=O | C22H15ClO4
